US07494992B2
(1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-5-((1R)-2-{4-[(4-chlorophenyl)oxy]piperidin-1-yl}-1-methylethyl)-8a-hydroxy-3,8-dimethyl-1, 2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a solution of (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-[1-methyl-2-oxoethyl]-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 141, 60 mg, 0.11 mmol) and 4-[(4-chlorophenyl)oxy]piperidine (Preparation 200, 25 mg, 0.1 mmol) was added dichloromethane (2 ml) and sodium triacetoxyborohydride (35 mg, 0.16 mmol), followed by triethylamine (0.02 ml, 0.17 mmol). The reaction mixture was stirred at room temperature for 17 h, before diluting with dichloromethane (5 ml) and saturated aqueous sodium hydrogen carbonate (3 ml). The reaction mixture was shaken vigorously and the layers were separated using a hydrophobic filter cartridge. The filtrate was concentrated under a stream of nitrogen and purified to give the title compound (26 mg).

reactant | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-[1-methyl-2-oxoethyl]-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.11 mmol, 60 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C=O)C)C)OC(C)=O)O | C29H37ClN2O8
reactant | 4-[(4-chlorophenyl)oxy]piperidine | 0.1 mmol, 25 mg | ClC1=CC=C(C=C1)OC1CCNCC1 | C11H14ClNO
reactant | sodium triacetoxyborohydride | 0.16 mmol, 35 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.17 mmol, 0.02 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | 3 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-5-((1R)-2-{4-[(4-chlorophenyl)oxy]piperidin-1-yl}-1-methylethyl)-8a-hydroxy-3,8-dimethyl-1, 2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 26 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)[C@H](CN3CCC(CC3)OC3=CC=C(C=C3)Cl)C)C)OC(C)=O)O | C40H51Cl2N3O8
